US07250439B2
4-Bromomethyl-biphenyl
Carbon tetrabromide (8.99 g, 27.1 mmol) and triphenyl phosphine (7.11 g, 27.1 mmol) were added to a stirred solution of biphenyl-4-yl methanol (5.00 g, 27.1 mmol) in dichloromethane (100 mL) at room temperature. Stirring was continued at room temperature for 1.5 hours then the solvent removed by evaporation under reduced pressure. The residue was purified by column chromatography on silica gel (1:20 diethyl ether:cyclohexane) to give the title compound (6.37 g, 95%) as a white solid. 1H NMR (400 MHz: CDCl3): 7.6 (4 H), 7.45 (4 H), 7.35 (1 H), 4.55 (2 H).

reactant | Carbon tetrabromide | 27.1 mmol, 8.99 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenyl phosphine | 27.1 mmol, 7.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | biphenyl-4-yl methanol | 27.1 mmol, 5.00 g | C1(=CC=C(C=C1)CO)C1=CC=CC=C1 | C13H12O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-Bromomethyl-biphenyl | 6.37 g, 95% | BrCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Br
